US08470859B2
5-chloro-1-(4-chloro-3-cyanobenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide
To a solution of 2-amino-5-chloronicotinamide (0.15 g) in N,N-dimethylformamide (3 ml) was added 5-(bromomethyl)-2-chlorobenzonitrile (0.31 g), and the mixture was stirred at 100° C. for 14 hr. The reaction mixture was diluted with ethyl acetate. The precipitate was collected by filtration and washed with ethyl acetate. The obtained precipitate was recrystallized from methanol-ethyl acetate to give the title compound (93 mg).

reactant | 2-amino-5-chloronicotinamide | 0.15 g | NC1=C(C(=O)N)C=C(C=N1)Cl | C6H6ClN3O
reactant | 5-(bromomethyl)-2-chlorobenzonitrile | 0.31 g | BrCC=1C=CC(=C(C#N)C1)Cl | C8H5BrClN
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-1-(4-chloro-3-cyanobenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide | 93 mg | Br.ClC=1C=C(C(N(C1)CC1=CC(=C(C=C1)Cl)C#N)=N)C(=O)N | InChI=1S/C14H10Cl2N4O.BrH/c15-10-4-11(14(19)21)13(18)20(7-10)6-8-1-2-12(16)9(3-8)5-17;/h1-4,7,18H,6H2,(H2,19,21);1H
